US09079866B2
Step C: 5-(2′-(Ethylthiomethyl)-3-fluorobiphenyl-4-yl)pyrazin-2-amine
To a solution of S-(4′-(5-aminopyrazin-2-yl)-5′-fluorobiphenyl-2-yl)methyl ethanethioate (100 mg, 0.280 mmol) in CH3OH (30 mL) were added Ph3P (150 mg, 0.560 mmol), K2CO3 (78 mg, 0.56 mmol), and bromoethane [drop-wise addition (60 mg, 0.56 mmol)] at rt. The reaction mixture was stirred at rt for 16 h, before removing the solvent in vacuo. The crude product was purified first by preparative-TLC followed by HPLC to give the title compound (70 mg HCOOH salt, 73%).

reactant | S-(4′-(5-aminopyrazin-2-yl)-5′-fluorobiphenyl-2-yl)methyl ethanethioate | 0.280 mmol, 100 mg | C(C)(SCC1=C(C=CC=C1)C1=CC=C(C(=C1)F)C1=NC=C(N=C1)N)=O | C19H16FN3OS
reactant | Ph3P | 0.560 mmol, 150 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | K2CO3 | 0.56 mmol, 78 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoethane | 0.56 mmol, 60 mg | BrCC | C2H5Br
solvent | CH3OH | 30 mL | CO | CH4O
product | 5-(2′-(Ethylthiomethyl)-3-fluorobiphenyl-4-yl)pyrazin-2-amine | 70 mg, 73% | C(C)SCC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C19H18FN3S
